US05461151
A mixture of 2,4-di-(2,4-dimethylphenyl)-6(2,4-dihydroxyphenyl)-1,3,5-triazine (20 g, 0.049 mole), 6-chloro-1-hexanol (7.04 g, 0.05 mole), available from Aldrich Chemicals, Milwaukee, Wis., potassium iodide (0.37 g, 0.0022 mole), PEG 400 (1.9 g, 0.005 mole), available from Aldrich Chemicals, Milwaukee, Wis., sodium hydroxide (2.0 g, 0.05 mole) in methyl isobutyl ketone was reflux (120°-122° C.) for 16 hrs. After cooling to 85° C., water (50 ml) was added and the reaction mixture was acidified with 37% hydrochloric acid to pH 1, and the resulting aqueous layer was removed. The organic layer was washed twice with warm water (75 ml per each washing) and the volatiles were removed under reduced pressure. The oily residue was dissolved in acetone and decolorized with activated charcoal and filtered. Cooling to 22° C. gave 2,4-di-(2,4-dimethylphenyl)-6-[2-hydroxy-4-(6-hydroxy-1-hexyloxy)phenyl]-1,3,5-triazine (I-E) as a pale yellow solid (10 g), m.p. 117°-118° C. The filtrate was concentrated under a reduced pressure to give a second crop of triazine I-E bringing the total weight of product to 21 g (87% yeild). It was characterized to be 2,4-di-(2,4,dimethylphenyl)-6-[ 2-hydroxy-4-(6-hydroxy-1-hexyloxy)phenyl]-1,3,5-triazine (I-E).

reactant | 2,4-di-(2,4-dimethylphenyl)-6(2,4-dihydroxyphenyl)-1,3,5-triazine | 0.049 mole, 20 g | CC1=C(C=CC(=C1)C)C1=NC(=NC(=N1)C1=C(C=C(C=C1)C)C)C1=C(C=C(C=C1)O)O | C25H23N3O2
reactant | 6-chloro-1-hexanol | 0.05 mole, 7.04 g | ClCCCCCCO | C6H13ClO
reactant | potassium iodide | 0.0022 mole, 0.37 g | [I-].[K+]
reactant | sodium hydroxide | 0.05 mole, 2.0 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methyl isobutyl ketone | C(C(C)C)C(=O)C | C6H12O
solvent | water | 50 ml | O | H2O
product | 2,4-di-(2,4-dimethylphenyl)-6-[2-hydroxy-4-(6-hydroxy-1-hexyloxy)phenyl]-1,3,5-triazine | 10 g | CC1=C(C=CC(=C1)C)C1=NC(=NC(=N1)C1=C(C=C(C=C1)C)C)C1=C(C=C(C=C1)OCCCCCCO)O | C31H35N3O3
